US05541186
By condensing 2-(3,4-dimethoxy-phenoxy)-propane-1,3-dione acid with formamidine acetate there was obtained 5-(3,4-dimethoxyphenoxy)-pyrimidine-4,6-diol, therefrom with POCl3 there was obtained 4,6-dichloro-5-(3,4-dimethoxy-phenoxy)-pyrimidine, therefrom with p-tert-butylbenzenesulfonamide K there was obtained 4-tert-butyl-N-[6-chloro-5-(3,4-dimethoxy-phenoxy)-pyrimidin-4-yl]-benzenesulfonamide and therefrom with Na ethylene glycolate there was obtained p-tert-butyl-N-[5-(3,4-dimethoxy-phenoxy)-6-(2-hydroxyethoxy)-4-pyrimidinyl]-benzenesulfonamide.

reactant | 2-(3,4-dimethoxy-phenoxy)-propane-1,3-dione | COC=1C=C(OC(C=O)C=O)C=CC1OC | C11H12O5
reactant | formamidine acetate | C(C)(=O)O.C(=N)N
product | 5-(3,4-dimethoxyphenoxy)-pyrimidine-4,6-diol | COC=1C=C(OC=2C(=NC=NC2O)O)C=CC1OC | C12H12N2O5
